US09216968B2
Methyl 1H-benzimidazole-4-carboxylate
To a suspension of methyl 2-amino-3-nitrobenzoate (1.0 g) in formic acid (>87%) was added 5% palladium on carbon (100 mg) and the suspension was heated with stirring at 100° C. for 23 hours. After the reaction mixture was cooled to room temperature, the catalyst was filtered off on celite, and the mother liquor was concentrated in vacuo. The residual solid was washed with diethyl ether under stirring, the solid was collected by filtration to obtain the titled compound (872 mg) as a colorless powder.

reactant | methyl 2-amino-3-nitrobenzoate | 1.0 g | NC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C8H8N2O4
reactant | formic acid | C(=O)O | CH2O2
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | Methyl 1H-benzimidazole-4-carboxylate | 872 mg | N1C=NC2=C1C=CC=C2C(=O)OC | C9H8N2O2
